US05614530
A mixture of 1,3-dimethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline (1.2 g, 0.005 mol), benzylamine (1.2 ml) and DMSO (3 ml) was heated at 80°-90° C. for 3-4 hours. The reaction mixture was cooled to room temperature and then was poured into water. The mixture was extracted with CH2Cl2 (3×50 ml) and then the CH2Cl2 layers were combined and evaporated. The residue was purified by column chromatography on silca gel eluting with ethyl acetate to afford the product which was crystallized from ether/hexane to afford 1.2 g of 1,3-dimethyl-N-(phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow solid, m.p. 105° C.

reactant | 1,3-dimethyl-4-chloro-1H-pyrazolo[3,4-b]quinoline | 0.005 mol, 1.2 g | CN1N=C(C=2C1=NC1=CC=CC=C1C2Cl)C | C12H10ClN3
reactant | benzylamine | 1.2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1,3-dimethyl-N-(phenylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 1.2 g | CN1N=C(C=2C1=NC1=CC=CC=C1C2NCC2=CC=CC=C2)C | C19H18N4
